US09422246B2
In a 300 mL egg-plant shaped flask, 14.7 g (120 mmol) of 4-hydroxybenzaldehyde was mixed with 16.4 g (132 mmol) of 2-(2-chloroethoxyl)ethanol, 33.2 g (240 mmol) of potassium carbonate, and 150 mL of acetonitrile. The mixture was heated at 105° C. for 14 hours with stirring. Thereafter, 1.49 g (12.0 mmol) of 2-(2-chloroethoxy) ethanol was further added, and the mixture was heated at 105° C. for 30 hours with stirring. After the liquid reaction mixture was cooled to room temperature, the solid was removed by celite filtration. The solvent was removed by distillation under reduced pressure, so that 34.6 g of a yellow viscous material mixed with a white solid was obtained. To the product was added 80 mL of water. The mixture was transferred into a separate 200 mL egg-plant shaped flask, and 15.6 g (156 mmol) of hydantoin and 14.4 g of 28% ammonia water were added to the flask. The mixture was heated at 90° C. for 12 hours with stirring. After the liquid reaction mixture was cooled to room temperature, the precipitated crystals were collected by filtration. The crystals were then washed twice with water and twice with ethanol. The crystals were dried to give 29.6 g of 5-[4-[2-(2-hydroxyethoxy)ethoxy]benzylidene]hydantoin. Subsequently, 17.5 g (60.0 mmol) of the product was added to a 200 mL egg-plant shaped flask, and 7.47 g (60 mmol) of 2-(2-chloroethoxyl)ethanol, 20.0 g (145 mmol) of potassium carbonate, and 80 mL of N,N-dimethylformamide were added to the flask. The mixture was heated at 110° C. for 3 hours with stirring. After the liquid reaction mixture was cooled to room temperature, the solid was removed by celite filtration. The solvent was removed by distillation under reduced pressure, so that 30.5 g of a yellow viscous material mixed with a white solid was obtained. The product was purified by silica gel column chromatography (developing solvent: isopropanol/toluene=1/3) to give 9.21 g of yellow crystals. The product was subjected to an activated carbon treatment with ethanol to give 6.56 g of compound 1 (yield: 25%).

reactant | 4-hydroxybenzaldehyde | 120 mmol, 14.7 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 2-(2-chloroethoxyl)ethanol | 132 mmol, 16.4 g | ClCCOCCO | C4H9ClO2
reactant | potassium carbonate | 240 mmol, 33.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(2-chloroethoxy) ethanol | 12.0 mmol, 1.49 g | ClCCOCCO | C4H9ClO2
reactant | hydantoin | 156 mmol, 15.6 g | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | ammonia water | 14.4 g | O.N
solvent | water | 80 mL | O | H2O
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 5-[4-[2-(2-hydroxyethoxy)ethoxy]benzylidene]hydantoin | 29.6 g | OCCOCCOC1=CC=C(C=C2C(NC(N2)=O)=O)C=C1 | C14H16N2O5
